**********
* Library of National Semiconductor's Buffer Macromodels.
* File:  NSBUFF.LIB
*
* This library of macromodels is being supplied to users as
* an aid to circuit designs.  While it reflects reasonably 
* close similarity to the actual device in terms of
* performance, it is not suggested as a replacement for
* breadboarding.  Simulation should be used as a supplement
* to traditional lab testing.
*
* Users should very carefully note the following factors
* regarding these models:
*
* 1. Model performance in general will reflect typical
* baseline specs for a given device, and certain aspects of
* performance may not be modeled fully.
*
* 2. While reasonable care has been taken in their
* preparation, we cannot be responsible for correct
* application on any and all computer systems.
*
* 3. Model users are hereby notified that these models are
* supplied "as is", with no direct or implied responsibility
* on the part of National Semiconductor for their operation
* within a customer circuit or system.  Further, National
* Semiconductor reserves the right to change these models
* without prior notice.
*
* 4. In all cases, the current data sheet information for a
* given real device is your final design guideline, and is
* the only actual performance guarantee.  For further
* technical information, refer to individual device data
* sheets.
*
* 5. The current models presently do not simulate
* temperature or noise effects correctly. 
*
* 6. Please send us your comments.  Thank you for choosing
*  to use National Semiconductor Amplifier Products
*
* Models developed and under copyright by:
* National Semiconductor Corporation
* Amplifier Products Applications Engineering, M/S: C2-505
* 2900 Semiconductor Drive  
* P.O. Box 58090
* Santa Clara, CA 95052-8090 
*
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
*
* Revision History:
* 3.0   06-Dec-93  D. Stolitzka/HG  LM6121/6221/6321--begin history.
*
**********
*SRC=LM6121;LM6121N;Buffers;National;High speed
*SYM=NATBUF
* LM6121/LM6221/LM6321 High Speed Buffer
*
* Connections:      Input
*                   | Positive power supply
*                   | | Output
*                   | | | Negative power supply
*                   | | | |
.SUBCKT LM6121N     2 6 7 8
*
* Features:
* +5V to +/-18V power supply operation
* Input current =                        1uA
* Low offset voltage =                  15mV
* High Slew rate =                   800V/uS
* Wide bandwidth =                     50MHz
* Peak output current =                350mA
* Short circuit and thermal limiting
*
* NOTE: - Noise is not modeled.
*       - Asymmetrical gain is not modeled.
*       - Temperature effects are not modeled.
*       - Add 'NOREUSE' to the .OPTIONS statement when
*         .STEP or .MC statements are used in the simulation.
*       - The effect of AC coupled loads on slew rate and bandwidth
*         is not modeled. Model parameters default to a 1K ohm load.
*
* Input capacitor.
CIN 2  0  3.5P
* Primary internal pole capacitor.
C1  16 0  381P
* Secondary internal pole capacitor.
C2  24 27 1.723P
C3  24 0  .5743P
* Filter for load resistor sensor.
C4  28 0  10P
D1  16 19 DX
D2  20 31 DX
D3  16 20 DX
D4  17 16 DX
D5  18 16 DX
D6  32 18 DX
D7  0  33 DX
D8  34 0  DX
D9  8  7  DX
D10 8  36 DX
D11 36 7  DX
D12 7  37 DX
D13 37 6  DX
D14 7  6  DX
* E1, E2, E4 adjust gain for delta Vs.
E1  25 0  POLY(1) 6 8 .9326 2.25E-3
E2  12 0  POLY(1) 6 8 3.516E-1 5.39E-2 -1.692E-3 2.065E-5
E3  21 0  POLY(1) 28 0 9.1839E-1 2.5364E-4 -2.0965E-7 5.7624E-11
E4  23 0  POLY(2) 24 0 25 0 0 0 0 0 1
E5  31 0  6       0  1.0
E6  0  32 0       8  1.0
* F1, F2 adjust slew rate for load and Vs.
F1  20 31 POLY(2) VC VSR 0 1 -472M
F2  32 18 POLY(2) VC VSR 0 -1 -472M
F3  0  13 POLY(1) VL 1E-9 0 1
* F4 senses load current.
F4  0  30 POLY(2) VS VR 0 0 0 0 1
* F5, F6, F7 simulate load current from +/-Vs.
F5  6  0  VSP     1.0
F6  0  8  VSN     1.0
F7  35 0  POLY(2) VL VRI 0 1 -1
* F8, F9 determines Isc.
F8  8  36 POLY(2) VL VRI -350M -1 1
F9  37 6  POLY(2) VL VRI -350M 1 -1
* G1 adjusts internal gain.
G1  11 0  POLY(3) 10 24 12 0 21 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0.1
G2  26 0  POLY(1) 28 0 6.6474E-1 1.1761E-3 -1.2316E-6 4.407E-10
G3  24 0  16      0  1M
G4  13 0  POLY(1) 13 0 0 0 1
G5  15 0  POLY(2) 15 0 13 0 0 0 0 0 1
* G6 senses output voltage.
G6  0  14 POLY(1) 7 0 2.5E-6 0 1
G7  14 0  POLY(1) 14 0 0 0 1
G8  15 0  14      0  -1.0
* G9 output proportional to dc load resistor (defalts to 1k with ac load).
G9  28 0  15      0  -1U
G10 29 0  POLY(1) 6 8 -1.4626E-1 4.2552E-2 4.0888E-5 -6.2241E-6
* Load capacitor sensor.
H1  27 0  POLY(2) VL VRI 0 -15 15
* Input bias current.
IB  2  8  1U
* Supply current.
IQ  6  8  12.65MA
* Input resistance.
RIN 10 0  5E6
R1  11 0  1K
R2  12 0  1E6
R3  25 0  1E6
R4  13 0  1T
R5  15 0  1T
R6  21 0  1E6
R7  6  8  11.2K
R8  24 0  1K
* Output resistor.
R9  23 22 4.7
R10 27 0  1E6
R11 14 0  1T
R13 28 0  1E6
R14 7  38 1K
VC  11 16 0V
VL  22 7  0V
* Input offset voltage.
VOS 2  10 15M
VR  0  26 0V
VRI 38 0  0V
VS  0  29 0V
VSN 35 34 0V
VSP 33 35 0V
VSR 30 0  0V
V1  31 19 2.135V
V2  17 32 2.135V
.MODEL DX D(IS=5E-14 TT=1E-10 CJO=1E-12)
.ENDS
**********
